US06531495B1
From 2′-phthalimidomethylbiphenyl-2-carboxylic acid (precursor 2), after conversion into the acid chloride using thionyl chloride and reaction with benzylamine, 2′-phthalimidomethylbiphenyl-2-carboxylic acid benzylamide was obtained. 1.2 g (2.7 mmol) of the product were dissolved in 55 ml of methanol and treated with 1.35 ml of hydrazine hydrate. After stirring at 40° C. for 1 h, the reaction mixture was concentrated and the residue was taken up in methylene chloride. After filtering off the 2,3-dihydrophthalazine-1,4-dione formed, the mother liquor was concentrated and the residue was purified by flash chromatography using methylene chloride/methanol 30:1. 0.49 g of 2′-aminomethylbiphenyl-2-carboxylic acid benzylamide was obtained.

reactant | 2′-phthalimidomethylbiphenyl-2-carboxylic acid | C1(C=2C(C(N1CC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O)=O)=CC=CC2)=O | C22H15NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 2′-phthalimidomethylbiphenyl-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C29H22N2O3
